US07288553B2
1-Butylsulfanyl-2-(5-nitro-6-trifluoromethyl-1H-indol-2-yl)-propan-2-ol
This compound was prepared using the general de-protection procedure as describe in General Procedures Example B. The starting material used was 1-butylsulfanyl-2-(1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indol-2-yl)-propan-2-ol (0.53 g, 1.16 mmol). The base that was used was 4N sodium hydroxide solution (1 mL, 4 mmol). The title compound was obtained as a yellow sticky oil.

reactant | 1-butylsulfanyl-2-(1-methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indol-2-yl)-propan-2-ol | 1.16 mmol, 0.53 g | C(CCC)SCC(C)(O)C=1N(C2=CC(=C(C=C2C1)[N+](=O)[O-])C(F)(F)F)S(=O)(=O)C | C17H21F3N2O5S2
reactant | sodium hydroxide | 4 mmol, 4N, 1 mL | [OH-].[Na+]
product | 1-Butylsulfanyl-2-(5-nitro-6-trifluoromethyl-1H-indol-2-yl)-propan-2-ol | C(CCC)SCC(C)(O)C=1NC2=CC(=C(C=C2C1)[N+](=O)[O-])C(F)(F)F | C16H19F3N2O3S
